plaintext
* SPICE Netlist for given circuit
VDD 3 0 DC 1.8V
R1 3 4 1k
RD 3 2 1k
? Missing component
M1 2 4 0 0 NMOS_MODEL
* NMOS Model
.model NMOS_MODEL NMOS (LEVEL=1)
.end
